US08039469B2
Preparation of 4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-((2S,5R)-2,5-bis((tert-butyldimethylsilyloxy)methyl)pyrrolidin-1-yl)-1,3,5-triazin-2-yl)aniline
A suspension of palladium on charcoal (10%, 100 mg) and crude 3-(4-((2S,5R)-2,5-bis((tert-butyldimethylsilyloxy)methyl)pyrrolidin-1-yl)-6-(4-nitrophenyl)-1,3,5-triazin-2-yl)-8-oxa-3-azabicyclo[3.2.1]octane (3.4 mmol maximum) in tetrahydrofuran (30 mL) was shaken for 8 hours under 50 psi of hydrogen. The mixture was filtered through a pad of Celite™ diatomaceous earth and concentrated under reduced pressure to provide the title compound as an orange foam. MS (ES+)=642.4 (M+H)+.

reactant | 3-(4-((2S,5R)-2,5-bis((tert-butyldimethylsilyloxy)methyl)pyrrolidin-1-yl)-6-(4-nitrophenyl)-1,3,5-triazin-2-yl)-8-oxa-3-azabicyclo[3.2.1]octane | 3.4 mmol | [Si](C)(C)(C(C)(C)C)OC[C@H]1N([C@H](CC1)CO[Si](C)(C)C(C)(C)C)C1=NC(=NC(=N1)C1=CC=C(C=C1)[N+](=O)[O-])N1CC2CCC(C1)O2 | C33H54N6O5Si2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 100 mg | [Pd] | Pd
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-((2S,5R)-2,5-bis((tert-butyldimethylsilyloxy)methyl)pyrrolidin-1-yl)-1,3,5-triazin-2-yl)aniline | C12CN(CC(CC1)O2)C2=NC(=NC(=N2)N2[C@@H](CC[C@@H]2CO[Si](C)(C)C(C)(C)C)CO[Si](C)(C)C(C)(C)C)C2=CC=C(N)C=C2 | C33H56N6O3Si2
